US08614327B2
A flask charged with 5-amino-N-(2,4-ditert-butyl-5-hydroxy-phenyl)-4-oxo-1H-quinoline-3-carboxamide (23 mg, 0.06 mmol), Pd/C (5 mg, 0.05 mmol) and formaldehyde (5 μL of 38% w/v, 0.06 mmol) was evacuated under vacuum, followed by purging with N2. Methanol (1 mL) was added followed by evacuating under vacuum. The reaction mixture was stirred overnight under an atmosphere of hydrogen, filtered through a plug of celite and concentrated to get N-(2,4-ditert-butyl-5-hydroxy-phenyl)-5-methylamino-4-oxo-1H-quinoline-3-carboxamide. LC/MS: m/z 422.5 (M+H)+ at 2.24 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 5-amino-N-(2,4-ditert-butyl-5-hydroxy-phenyl)-4-oxo-1H-quinoline-3-carboxamide | 0.06 mmol, 23 mg | NC1=C2C(C(=CNC2=CC=C1)C(=O)NC1=C(C=C(C(=C1)O)C(C)(C)C)C(C)(C)C)=O | C24H29N3O3
reactant | formaldehyde | 0.06 mmol, 5 μL | C=O | CH2O
catalyst | Pd/C | 0.05 mmol, 5 mg | [Pd] | Pd
product | N-(2,4-ditert-butyl-5-hydroxy-phenyl)-5-methylamino-4-oxo-1H-quinoline-3-carboxamide | C(C)(C)(C)C1=C(C=C(C(=C1)C(C)(C)C)O)NC(=O)C1=CNC2=CC=CC(=C2C1=O)NC | C25H31N3O3
